US06900210B2
Step B: (S)-3-(1-Amino-ethyl)-phenol
(S)-[1-(3-Methoxy-phenyl)-ethyl]-carbamic acid tert-butyl ester (50.2 g, 210 mmol) in CH2Cl2 (500 mL) was cooled to −78° C. Boron tribromide (450 mL, 1.0M in CH2Cl2) was added slowly and the resulting mixture was warmed to room temperature and stirred for 3 h. The reaction mixture was again cooled to 0° C. and methanol (500 mL) was added slowly. The solvent was removed in vacuo, and the residue was purified by flash column chromatography on silica gel eluting with 5% MeOH in EtOAc to give the title product in quantitative yield.

reactant | (S)-[1-(3-Methoxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 210 mmol, 50.2 g | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)OC)=O | C14H21NO3
reactant | Boron tribromide | 1.0M, 450 mL | B(Br)(Br)Br | BBr3
reactant | methanol | 500 mL | CO | CH4O
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(1-Amino-ethyl)-phenol | quantitative yield | N[C@@H](C)C=1C=C(C=CC1)O | C8H11NO
